US05250517
A suspension of 19.5, g (0.51 mol) of lithium aluminium hydride in 750 ml of absolute ether was heated to reflux. Within 4 hours there was added, dropwise, a solution of 54.5 g (0.307 mol) of (S)-(+)-2-phenyl 3-methylbutyric acid in 250 ml of absolute ether. After heating to reflux for a further 2 hours, the suspension was treated carefully with 1N hydrochloric acid and the ether phase was washed with water, dilute sodium bicarbonate solution, and once more with water. After drying the organic phase over sodium sulfate and evaporation under reduced pressure, there were obtained 53.1 g of (S)-(+)-2-phenyl-3-methylbutanol as a thick oil which was used directly in the next step.

reactant | lithium aluminium hydride | 0.51 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-(+)-2-phenyl 3-methylbutyric acid | 0.307 mol, 54.5 g | C1(=CC=CC=C1)[C@@H](C(=O)O)C(C)C | C11H14O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | 750 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | (S)-(+)-2-phenyl-3-methylbutanol | 53.1 g | C1(=CC=CC=C1)[C@@H](CO)C(C)C | C11H16O
